US07282497B2
Ethyl 2-azido-4-{[-(tert-butoxycarbonyl)propyl]amino}butanoate
To a solution of tert-butyl 2-amino-butanoate (0.397 g) and ethyl 2-azido4-bromo-butanoate (0.286 g) in acetonitrile (5 ml) was added triethylamine (0.347 ml). The mixture was heated at 50° C. for 18 h, cooled and evaporated onto silica gel (Merck.7734). The pre-absorbed material was purified by flash column chromatography (Merck. 9385, eluting with cyclohexane:ethyl acetate 6:1) to give the title compound (0.200 g) as a mixture of four diastereomers.

reactant | tert-butyl 2-amino-butanoate | 0.397 g | NC(C(=O)OC(C)(C)C)CC | C8H17NO2
reactant | ethyl 2-azido4-bromo-butanoate | 0.286 g | N(=[N+]=[N-])C(C(=O)OCC)CCBr | C6H10BrN3O2
reactant | triethylamine | 0.347 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | Ethyl 2-azido-4-{[-(tert-butoxycarbonyl)propyl]amino}butanoate | 0.200 g | N(=[N+]=[N-])C(C(=O)OCC)CCNCCCC(=O)OC(C)(C)C | C14H26N4O4
